US07074791B2
Step 6: Preparation of 7-(2,4-dichlorophenyl)-N-(1-ethylpropyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine
A mixture of 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine (0.253 g, 0.683 mmol), 5-(diphenylphosphino)-9,9-dimethyl-9H-xanthen-4-yl](diphenyl)phosphine (0.043 g, 0.068 mmol), Cs2CO3 (0.311 g, 0.956 mmol) and Pd2(dba)3 (0.031 g, 0.034 mmol) in dioxane (7.0 mL) is stirred at room temperature for 5 min followed by the addition of 1-ethylpropylamine (0.16 mL, 0.119 g, 1.37 mmol). The resulting mixture is refluxed for 10 h. After cooling to room temperature, 5-(diphenylphosphino)-9,9-dimethyl-9H-xanthen-4-yl](diphenyl)phosphine (0.022 g, 0.034 mmol), Pd2(dba)3 (0.016 g, 0.017 mmol) and 1-ethylpropylamine (0.08 mL, 0.06 g, 0.68 mmol) are added and the mixture is refluxed for an additional 7 h. The mixture is filtered through a pad of celite and washed with EtOAc. The filtrate is concentrated in vacuo to dryness, the residue is subjected to preparative TLC (silica gel, 1/15 EtOAc/heptane) to give 0.167 g (65%) of light yellow oil as the title compound. The product is solidified and recrystalized from pet ether to give a light yellow solid: mp 115–118° C.; 1H NMR (400 MHz, CDCl3) δ 7.57 (d, J=2.1 Hz, 1H), 7.43 (d, J=8.3 Hz, 1H), 7.36 (dd, J=2.1, 8.3 Hz, 1H), 6.32 (s, 1H), 5.58 (s, 1H), 4.21 (d, J=8.7 Hz, 1H), 3.50–3.42 (m, 1H), 2.33 (s, 3H), 2.23 (s, 3H), 1.79–1.69 (m, 2H), 1.63–1.56 (m, 2H), 1.04–0.98 (m, 6H); 13C NMR (100 MHz, CDCl3) δ 153.9, 143.5, 136.7, 134.7, 134.5, 130.2, 130.0, 127.1, 123.1, 120.8, 119.9, 94.9, 88.3, 55.3, 27.5, 22.8, 12.7, 10.7; IR (liq.) 2965, 2929, 2326, 1996, 1748, 1614, 1563, 1487, 1461, 1443, 1374, 1333, 1002, 821, 813 cm−1; MS (EI) m/z 378 (M++H), 376 (M++H); HRMS (FAB) calcd for C20H23Cl2N3+H 376.1347, found 376.1353; Anal. Calcd for C20H23Cl2N3: C, 63.83; H, 6.16; N, 11.17. Found: C, 63.93; H, 6.23; N, 11.12.

reactant | 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | 0.683 mmol, 0.253 g | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)Cl)Cl | C15H11BrCl2N2
reactant | (diphenyl)phosphine | 0.068 mmol, 0.043 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | Cs2CO3 | 0.956 mmol, 0.311 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-ethylpropylamine | 1.37 mmol, 0.16 mL, 0.119 g | C(C)C(CC)N | C5H13N
reactant | (diphenyl)phosphine | 0.034 mmol, 0.022 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | 1-ethylpropylamine | 0.68 mmol, 0.08 mL, 0.06 g | C(C)C(CC)N | C5H13N
solvent | dioxane | 7.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.034 mmol, 0.031 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.017 mmol, 0.016 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(2,4-dichlorophenyl)-N-(1-ethylpropyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-amine | ClC1=C(C=CC(=C1)Cl)C1=C(C=C2N1N=C(C=C2NC(CC)CC)C)C | C20H23Cl2N3
